US09145414B2
Tert-butyl((1S,2R)-2-aminocyclohexyl)carbamate (302 mg) and diisopropylethylamine (0.40 ml) were added successively to a solution of ethyl 3-chloro-5-(1-methyl-1H-indol-4-ylamino)-1,2,4-triazine-6-carboxylate (390 mg) obtained in the above-described Step 1 in THF (10 ml), and the reaction solution was allowed to react at 70° C. for 2 hours. The reaction solution was diluted with ethyl acetate, washed successively with an aqueous sodium bicarbonate solution and a saturated saline solution, and then dried over anhydrous sodium sulfate. The solvent was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain ethyl 3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-5-(1-methyl-1H-indol-4-ylamino)-1,2,4-triazine-6-carboxylate as a yellow solid.

reactant | Tert-butyl((1S,2R)-2-aminocyclohexyl)carbamate | 302 mg | C(C)(C)(C)OC(N[C@@H]1[C@@H](CCCC1)N)=O | C11H22N2O2
reactant | diisopropylethylamine | 0.40 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 3-chloro-5-(1-methyl-1H-indol-4-ylamino)-1,2,4-triazine-6-carboxylate | 390 mg | ClC=1N=NC(=C(N1)NC1=C2C=CN(C2=CC=C1)C)C(=O)OCC | C15H14ClN5O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-5-(1-methyl-1H-indol-4-ylamino)-1,2,4-triazine-6-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC=1N=NC(=C(N1)NC1=C2C=CN(C2=CC=C1)C)C(=O)OCC | C26H35N7O4
